US04180395
2-(3,5-Dichloro-6-fluoro-2-pyridyloxy)-ethyl 2,2-dichloropropionate
A solution was prepared by admixing 250 milliliters of acetonitrile, 55.3 grams (0.4 mole) of potassium carbonate, 42.5 grams (0.16 mole) of 2-(3,5-dichloro-6-fluoro-2-pyridyloxy)ethanol and 32.3 grams (0.2 mole) of 2,2-dichloropropionyl chloride. This mixture was stirred at room temperature for 4 days. The solids which formed were removed by filtration and the filtrate was concentrated under a reduced pressure. The residual material which remained was dissolved in hexane and washed with water. The hexane was removed under a reduced pressure to yield a pale-orange liquid having a refractive index of n/25D=1.5239. The product was confirmed to be 2-(3,5-dichloro-6-fluoro-2-pyridyloxy)ethyl 2,2-dichloro propionate by its infrared and nuclear magnetic resonance spectrums.

reactant | potassium carbonate | 0.4 mole, 55.3 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(3,5-dichloro-6-fluoro-2-pyridyloxy)ethanol | 0.16 mole, 42.5 grams | ClC=1C(=NC(=C(C1)Cl)F)OCCO | C7H6Cl2FNO2
reactant | 2,2-dichloropropionyl chloride | 0.2 mole, 32.3 grams | ClC(C(=O)Cl)(C)Cl | C3H3Cl3O
solvent | acetonitrile | 250 milliliters | C(C)#N | C2H3N
product | 2-(3,5-Dichloro-6-fluoro-2-pyridyloxy)-ethyl 2,2-dichloropropionate | ClC(C(=O)OCCOC1=NC(=C(C=C1Cl)Cl)F)(C)Cl | C10H8Cl4FNO3
